US06392077B1
In the same apparatus and procedure as Example 1 above, 0.44 g (1.50 mmol) of tetrabutylphosphonium chloride, 0.74 g (7.5 mmol) of 1,2-dichloroethane, and 10.16 g (75.0 mmol) of trichlorosilane were reacted at 150° C. for 10 hrs. The resulting mixture was distilled to give 1.09 g of 1,2-bis(trichlorosilyl)ethane (yield; 54%).

reactant | 1,2-dichloroethane | 7.5 mmol, 0.74 g | ClCCCl | C2H4Cl2
reactant | trichlorosilane | 75.0 mmol, 10.16 g | Cl[SiH](Cl)Cl | Cl3HSi
catalyst | tetrabutylphosphonium chloride | 1.50 mmol, 0.44 g | [Cl-].C(CCC)[P+](CCCC)(CCCC)CCCC
product | 1,2-bis(trichlorosilyl)ethane | 1.09 g, yield; 54% | Cl[Si](CC[Si](Cl)(Cl)Cl)(Cl)Cl | C2H4Cl6Si2
